Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[H:12].[H:8],4.87313688268
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:14]([H:15])([H:16])[H:17],4.846876347759999
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[C:4]#[C:5][H:6],5.290160097809999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])([H:9])([C:10][H:11])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:12]([H:13])[H:14],4.87040387967
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])[H:7])[C:9](=[O:8])[H:10]>>[H:1][C:2]1[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]1[H:10],-1.32639792955
[H:1][C:2][O:3]/[C:4]=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[O:3],0.428845886011
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:11].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17],4.84136242176
[O:1]=[C:2]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-4.03411648931
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],3.6527151128199993
[H:1][C:2][O:3][C:4]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2][O:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.19447342709
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:7]>>[H:1][C:2]([H:3])([H:4])[C:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-1.67887047175
[H:9].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.81256459929
[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]#[C:3][O:4][C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1],5.45940065151
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:14],4.57770562643
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],6.14498214915
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:3],3.92737903555
[C:1]#[C:2].[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9],-7.69661970972
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]1([H:11])[C:12]([H:13])([H:14])[C:15]1([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:12]([H:13])[C:15]([C:10]([H:11])[H:14])([H:16])[H:17],0.0598616875004
[C:1]#[C:2][C:3]([C:4][O:5][H:6])[O:7][H:8]>>[C:1]#[C:2].[C:3](#[C:4][O:5][H:6])[O:7][H:8],4.6486987798
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],2.99870267916
[C:4]#[C:8][H:9].[H:1][C:2][C:3]#[C:5][C:6]([H:7])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-6.299514275090001
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11][H:12],5.603257044149999
[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])\[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]>>[O:1]=[C:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.45699318521
[H:1][O:2][C:3]1=[C:4]([H:5])[O:6][C:7][C:8]1([H:9])[H:10]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],2.65444708632
[H:1][O:2][O:3][C:4](=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.7955325323400002
[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-4.48100504416
[C:5]=[C:6]([H:7])[H:8].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[H:8],-5.91859482482
[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:6]([H:7])[H:8].[O:1][C:2]([H:3])([H:4])[C:5][C:9]([H:10])([H:11])[O:12][H:13],8.43890492758
